US05852011
N-(2-Nitro-5-chlorobenzoyl)morpholine
Dissolved in 20 ml of thionyl chloride were 5.0 g (24.8 mmol) of 2-nitro-5-chlorobenzoic acid, followed by heating for 1.5 hours under reflux. After the reaction, the reaction mixture was concentrated and the residue was dissolved in 10 ml of acetone. The thus-obtained solution was added dropwise to a solution of 4.7 ml (62 mmol) of morpholine in 20 ml of acetone, followed by stirring at room temperature for 2 hours. Subsequent to the reaction, the reaction mixture was concentrated and then extracted with ethyl acetate. The ethyl acetate layer was dried and then concentrated. The residue was recrystallized from ethyl acetate/n-hexane, whereby 5.64 g of the title compound were obtained as white powder (yield: 84%).

reactant | 2-nitro-5-chlorobenzoic acid | 24.8 mmol, 5.0 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)Cl | C7H4ClNO4
reactant | morpholine | 62 mmol, 4.7 ml | N1CCOCC1 | C4H9NO
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N-(2-Nitro-5-chlorobenzoyl)morpholine | 5.64 g | [N+](=O)([O-])C1=C(C(=O)N2CCOCC2)C=C(C=C1)Cl | C11H11ClN2O4
